* BEGIN MODEL LMP7300
*/////////////////////////////////////////////////////////////
*Rev. a, September 2008
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.  
*/////////////////////////////////////////////////////////////////////
* Legal Notice:  
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice. 
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND" 
*////////////////////////////////////////////////////////////////////
*
* FEATURES INCLUDE OFFSET VOLTAGE, OFFSET VOLTAGE
* TEMPCO, IQ, IQ VS VCC, IQ VS TEMP, PROPAGATION
* DELAY VERSUS OVERDRIVE, OPEN COLLECTOR OUTPUT,
* OUTPUT SWING VS IO, INPUT COMMON MODE VOLTAGE
* RANGE, CMRR, PSRR, INPUT BIAS CURRENT, INTERNAL
* REFERENCE OUTPUT, REFERENCE TEMPCO, REFERENCE
* VOLTAGE NOISE VS FREQUENCY, REFERENCE LINE
* REGULATION, AND REFERENCE OUTPUT IMPEDANCE.
* PINOUT ORDER +IN -IN GND OUT HYSTN HYSTP REF V+
* PINOUT ORDER  1   2   3   4    5     6    7   8
.SUBCKT LMP7300 1 2 3 4 5 6 7 8
R81 9 8 0.5
R82 3 10 0.5
R83 11 12 1E5
R84 13 14 2.47E3
R85 15 16 0.5
R86 11 17 0.5
D21 18 8 DD
D22 3 18 DD
E25 11 0 3 0 1
E26 16 0 8 0 1
M24 19 20 10 10 NOUT L=3U W=6000U
M25 21 22 9 9 POUT L=3U W=6000U
M26 23 23 15 15 POUT L=3U W=6000U
M29 24 24 17 17 NOUT L=3U W=6000U
R96 25 22 100
R97 26 20 100
C32 14 18 1E-12
C36 18 0 1E-12
I28 23 24 0.5E-6
R105 18 21 17
R106 19 18 27
G16 27 28 13 28 -1E-3
G17 28 29 13 28 1E-3
G18 28 30 24 11 1E-3
G19 31 28 16 23 1E-3
D31 31 27 DD
D32 29 30 DD
R110 27 31 100E6
R111 30 29 100E6
R112 31 16 1E3
R113 11 30 1E3
E39 16 25 16 31 1
E40 26 11 30 11 1
R114 29 28 1E6
R115 30 28 1E6
R116 28 31 1E6
R117 28 27 1E6
R118 3 8 6.2E6
G20 8 3 32 0 -1.6E-5
D33 33 0 DD
V33 33 32 0.6
R119 0 32 1E6
I31 8 3 6.2E-6
I34 0 33 0.2U
E44 28 11 16 11 0.5
R120 34 35 1.2E6
D34 36 34 DD
D35 34 37 DD
V45 37 38 0.3
V46 39 36 0.3
C42 13 28 0.02E-12
R121 34 13 1.1E6
E45 39 28 40 0 1
E46 38 28 40 0 -1
D36 41 0 DD
I35 0 41 1.5E-6
V47 41 40 0.487
R122 0 40 1E9
D37 42 43 DD
D38 44 42 DD
G21 42 28 45 0 0.2E-3
R123 28 42 3.5E6
C43 42 28 6E-12
M30 35 42 43 43 POUT L=3U W=30U
M31 35 42 44 44 NOUT L=3U W=30U
V55 43 28 2.5
V56 44 28 -2.5
G24 0 45 46 47 1E-3
E58 48 49 50 0 30
E59 51 7 50 0 -30
V58 52 51 15
V59 53 48 -15
R144 48 0 1E12
R145 51 0 1E12
M43 7 53 49 54 PSW L=1.5U W=150U
M44 49 52 7 55 NSW L=1.5U W=150U
R146 54 0 1E12
R147 55 0 1E12
E60 56 57 58 0 30
E61 59 7 58 0 -30
V60 60 59 15
V61 61 56 -15
R148 56 0 1E12
R149 59 0 1E12
M45 7 61 57 62 PSW L=1.5U W=150U
M46 57 60 7 63 NSW L=1.5U W=150U
R150 62 0 1E12
R151 63 0 1E12
G25 0 45 7 57 -1E-3
G26 0 45 49 7 1E-3
R152 0 45 1K
M47 58 4 0 0 NOUT L=3U W=6000U
R155 58 64 1E5
V66 64 0 1
M48 50 58 0 0 NOUT L=3U W=6000U
R156 50 64 1E5
R157 65 49 1E6
R158 66 57 1E6
C44 45 0 400E-12
Q1 67 68 11 Q34A
R159 12 68 1E5
E66 12 11 18 11 1
C45 68 67 0.25E-12
E67 69 11 46 70 -100
M49 71 69 11 11 NCLP L=3U W=30U
V68 70 11 1
E68 72 11 46 16 100
M50 71 72 11 11 NCLP L=3U W=30U
E69 73 11 49 74 -100
M51 71 73 11 11 NCLP L=3U W=30U
V69 74 11 1
E70 75 11 49 16 100
M52 71 75 11 11 NCLP L=3U W=30U
E71 76 11 47 77 -100
M53 71 76 11 11 NCLP L=3U W=30U
V70 77 11 1
E72 78 11 47 16 100
M54 71 78 11 11 NCLP L=3U W=30U
E73 79 11 57 80 -100
M55 71 79 11 11 NCLP L=3U W=30U
V71 80 11 1
E74 81 11 57 16 100
M56 71 81 11 11 NCLP L=3U W=30U
R161 82 71 1E4
V72 82 11 3
R162 68 83 1
R164 11 75 1E12
R165 11 69 1E12
R166 11 76 1E12
R167 11 78 1E12
R168 11 72 1E12
R169 11 73 1E12
R170 11 79 1E12
R171 11 81 1E12
C47 71 82 1E-12
Q2 83 84 11 Q34B
G27 84 11 71 82 1E-5
D39 11 84 DD
I38 16 85 1.2E-9
R174 86 85 1E11
I39 16 87 1.2E-9
I40 16 88 1.2E-9
I41 16 89 1.2E-9
V73 11 86 0.75
C48 5 0 2E-12
C49 6 0 2E-12
C50 47 0 2E-12
C51 46 0 2E-12
C52 67 11 2E-12
R177 67 4 1
G28 0 3 67 4 1
D40 90 0 DVN
D41 91 0 DVN
I42 0 90 0.1E-3
I43 0 91 0.1E-3
E75 92 93 94 95 5
R178 93 92 1E9
E76 93 96 32 0 -4.21E-3
R179 96 93 1E9
R180 96 7 0.23
C53 7 11 2E-12
V75 92 11 2.04863
R181 90 94 1.1E6
R182 91 95 1.1E6
C54 94 95 9E-12
E77 97 0 98 0 1
R183 97 99 1E6
R184 0 99 100
E78 46 100 99 0 0.1
R185 101 98 1E3
R186 98 102 1E3
C55 97 99 2E-12
E79 102 0 47 0 1
E80 101 0 46 0 1
R187 100 46 1E9
R188 98 0 1E9
E81 103 0 16 0 1
R189 103 104 1E6
R190 0 104 100
E82 100 105 104 0 0.1
C56 103 104 2E-12
R191 105 100 1E9
E83 106 0 11 0 1
R192 106 107 1E6
R193 0 107 100
E84 105 1 107 0 -0.1
C57 106 107 2E-12
R194 1 105 1E9
V76 108 2 120U
R195 0 47 1E12
R196 0 2 1E12
R197 11 70 1E12
R198 11 77 1E12
R199 11 80 1E12
R200 11 74 1E12
E85 47 108 32 0 6.94E-4
R201 0 108 1E12
M57 85 85 86 86 NIM L=3U W=30U
M58 5 85 86 86 NIM L=3U W=30U
R202 86 87 1E11
M59 87 87 86 86 NIM L=3U W=30U
M60 6 87 86 86 NIM L=3U W=30U
R203 86 88 1E11
M61 88 88 86 86 NIM L=3U W=30U
M62 47 88 86 86 NIM L=3U W=30U
R204 86 89 1E11
M63 89 89 86 86 NIM L=3U W=30U
M64 46 89 86 86 NIM L=3U W=30U
E86 65 0 6 0 1
E87 66 0 5 0 1
R205 65 0 1E12
R206 66 0 1E12
.MODEL DVN D KF=3E-14 IS=1E-16
.MODEL JC NJF IS=1E-18
.MODEL DD D
.MODEL POUT PMOS KP=200U VTO=-0.7 LAMBDA=0.01
.MODEL NOUT NMOS KP=200U VTO=0.7 LAMBDA=0.01
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIM NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.MODEL NCLP NMOS KP=200U VTO=5 IS=1E-18
.MODEL NCSW NMOS KP=200U VTO=5 IS=1E-18
.MODEL Q34A NPN BF=1612 VAF=150 VAR=25
+RC=7 RB=41 RE=1.4 IKF=0.35E-01 ISE=0.45E-18
+TF=0.557E-10 CJC=0.791E-15 CJE=3.57E-15
+XTI=3.0 NE=1.5 ISC=0.15E-18 EG=1.11 VJC=0.75
+VJE=0.75 IS=0.50E-15 MJC=0.33 MJE=0.33 XTF=4.0
+NC =1.7 FC=0.50 RBM=29 IRB=0.50E-02
.MODEL Q34B NPN BF= 200 VAF= 96 VAR= 9.6
+RC=17 RB=41 RE=1.4 IKF=0.35E-01 ISE=0.45E-18
+TF=0.557E-10 CJC=0.791E-16 CJE=3.57E-16
+XTI=3.0 NE=1.5 ISC=0.15E-14 EG=1.11
.ENDS
* END MODEL LMP7300
